Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]3([O:5][H:14])[C@:6]1([H:16])[C@@:7]23[H:17].[H:10][H:15],133.147824530358
[H:10][H:11].[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],70.3595015611144
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C:3]=[C:5]=[N-:6])([H:7])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13],68.4512317620961
[O:1]=[C:2]([C:4](/[C:3](=[N:5]\[H:10])[H:7])([H:8])[H:9])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],81.2056818216678
[N:1](=[C:2])[H:8].[O:3]=[C:4]([O:5][C:6](=[O:7])[H:10])[H:9]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],20.9102671556451
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1]#[C:2][O:6][C:5]([O:4][C:3]([H:7])([H:8])[H:9])([H:10])[H:11],93.4338316232435
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2]1([H:10])=[C:3]([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],76.49468982057562
[C:1]([O:2][C:6]([O:7][H:17])([H:15])[H:16])([H:8])([H:9])[H:10].[C:3](=[C:4]([O:5][H:14])[H:13])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],75.7484450853411
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:7]1[C:3](=[C:2]([H:11])[H:12])[C+:4]([H:13])[N:5]([H:14])[N-:6]1)([H:8])([H:9])[H:10],92.47387012411608
[C:5](=[O:6])([H:13])[H:14].[O:1](/[C:2](=[C:3](\[C:4]([H:9])([H:11])[H:12])[H:10])[H:8])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],102.0582751248386
[C-:2]#[O+:3].[C:1]([C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],49.66885439855868
[C:1]1([H:8])([H:9])[C:2]2([O:3]1)[N:4]([H:10])[C:5]([H:7])([H:11])[N:6]2[H:12]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],53.53324820048471
[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[O:4])=[C:5]([H:10])[H:11].[O:1]([C:2]([O:6][H:12])([H:8])[H:9])[H:7],98.54168811481381
[O:1]=[C:2]=[C:3]=[C:4]([C:5]#[N:6])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6],77.8048264143863
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2][C:4]([C:5]#[N+:6][O-:3])([H:9])[H:10])([H:7])[H:8],140.598595870214
[O:1]([C:3]([C:2]([H:8])([H:9])[H:10])([O:4][H:11])[C:5](=[O:6])[H:12])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],87.60913878528383
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]([C@@:6]1([H:12])[C@:4]([C:3](=[C:2])[H:10])([H:11])[O:5]1)([H:7])([H:8])[H:9],76.37469901141459
[C:1]([H:8])([H:9])([H:10])[H:18].[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12].[C:5](=[C:6]([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],67.0281952187465
[C:1]([C:2]([O:3][H:11])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:16])[H:14])([H:12])([H:13])[H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],44.345310375648396
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2](=[N+:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11],73.9646391633279
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[C-:4]#[O+:5].[N-:1]([C+:2]([O-:3])[C+:6]([O:7][H:9])[H:10])[H:8],30.0345428018497
[C:1]([C:2]([C:3]([C:4]#[C:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C+:3](=[C:4]=[C-:5][C:6]([H:14])([H:15])[H:16])[H:12].[C:1]([C:2]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9],74.363257725078
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[O:4])([O:5][C:6]([H:12])([H:13])[H:14])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],72.25536727949068
[C-:5]#[O+:6].[C:1]([N:2](/[C:3](=[N:4]\[H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],72.28445824316572
[O:1](/[C:2](=[C:5](\[O:6][H:7])[H:10])[H:8])[C:3](=[O:4])[H:9]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],38.53569190130122
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[H:9])[C:5]([O:6][H:7])([H:8])[H:10],35.4451024640091
